US07312236B2
3-(4-Dimethylamino-cyclohex-1-enyl)-2-fluoro-phenylamine
Add concentrated hydrochloric acid (2 mL) into a solution of the above benzhydrylidene-(3-(4-dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-amine (2.27 g, 5.7 mmol) in THF (20 mL) and heat at reflux for 1 hr. Basify the reaction mixture with conc. NH4OH and partition between saturated aqueous NaCl and DCM, dry the organic phase with anhydrous sodium sulfate, evaporate the solvent, and purify the residue by chromatography on a silica gel column (DCM: 2M NH3 in MeOH, gradient) to give the title compound (1.189 g): MS (ES): m/z=235 (M+H)+. 1H NMR (CDCl3): δ 6.85 (m, 1H), 6.64 (m, 1H), 6.87 (m, 1H), 5.87 (m, 1H), 3.70 (br s, 2H), 2.3-2.6 (m, 4H), 2.35 (s, 6H), 2.18 (m, 1H), 2.06 (m, 1H), 1.55 (m, 1H).

reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | benzhydrylidene-(3-(4-dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-amine | 5.7 mmol, 2.27 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=C(C(=CC=C1)C1=CCC(CC1)N(C)C)F | C27H27FN2
reactant | NH4OH | [NH4+].[OH-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-Dimethylamino-cyclohex-1-enyl)-2-fluoro-phenylamine | 1.189 g | CN(C1CC=C(CC1)C=1C(=C(C=CC1)N)F)C | C14H19FN2
